### PR TITLE
[Merged by Bors] - feat: tactic `change? _`

### PR DESCRIPTION
**Pull request by adomani**
Writing `change? (some term)` tries to unify the given term with the current goal and prints the result of unification (and instantiation of meta-variables).  This is useful to replace a `dsimp` by a `change ...`, when you already know what you would like the end defeq expression to look like.

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Copying.20from.20the.20widget.20view)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Change.lean [hunk 1]
```diff
@@ -0,0 +1,30 @@
...
+elab_rules : tactic
+| `(tactic| change? $[$h]?) => do
+  let expr := ← match h with
+    | none => getMainTarget
+    | some ex => do
+      let ex := ← elabTerm ex none
+      let defeq? := ← isDefEq ex (← getMainTarget)
+      if ! defeq? then throwError "The given term is not DefEq to the goal"
+      instantiateMVars ex
+  logInfo m!"change {expr}"
```
Comment (eric-wieser) [inline Mathlib/Tactic/Change.lean:30]: This should obviously generate a `try this` / code action intead of logging!

Comment (adomani) [reply Mathlib/Tactic/Change.lean]: I figured out how to do it!

Although, maybe this tactic is obsolete, given the discussion in the corresponding Zulip thread.

File: Mathlib/Tactic/Change.lean [hunk 2]
```diff
@@ -0,0 +1,39 @@
...
+@[inherit_doc change?, tactic change?] def elabChange? : Tactic := fun stx => do
+  let sop := stx[1].getOptional?
+  let expr := ← match sop with
+    | none => getMainTarget
+    | some ex => do
+      let ex := ← elabTerm ex none
+      let defeq? := ← isDefEq ex (← getMainTarget)
+      if ! defeq? then throwError "The given term is not DefEq to the goal"
+      instantiateMVars ex
+  let dstx := ← delabToRefinableSyntax expr
```
Comment (thorimur) [inline Mathlib/Tactic/Change.lean:38]:
```suggestion
  let expr := ← match sop with
    | none => getMainTarget
    | some ex => do
      let ex ← elabTerm ex none
      let defeq? ← isDefEq ex (← getMainTarget)
      if ! defeq? then throwError "The given term is not DefEq to the goal"
      instantiateMVars ex
  let dstx ← delabToRefinableSyntax expr
```

File: Mathlib/Tactic/Change.lean [hunk 3]
```diff
@@ -0,0 +1,39 @@
...
+-/
+syntax (name := change?) "change?" (ppSpace colGt term)? : tactic
+
+open Lean Meta Elab.Tactic Std.Tactic.TryThis in
+@[inherit_doc change?, tactic change?] def elabChange? : Tactic := fun stx => do
+  let sop := stx[1].getOptional?
+  let expr := ← match sop with
+    | none => getMainTarget
+    | some ex => do
+      let ex := ← elabTerm ex none
```
Comment (thorimur) [inline Mathlib/Tactic/Change.lean:34]: Should we elaborate `ex` with the type of the main goal (instead of `none`), since we know it has to be defeq to the main goal? (There might be a reason not to, I'm not sure.)

File: Mathlib/Tactic/Change.lean [hunk 4]
```diff
@@ -0,0 +1,39 @@
...
+
+/--  `change? term?` unifies the optional `term?` with the current goal, defaulting to the
+goal, if `term?` is not present.
+It then prints in the infoView the unified term.
+This is useful to replace the main goal after a `dsimp`.
+```lean
+example : (fun x : Nat => x) 0 = 1 := by
+  change? 0 = _  -- `change 0 = 1`
+```
+-/
```
Comment (thorimur) [inline Mathlib/Tactic/Change.lean:25]:
```suggestion
/--`change? term` unifies `term` with the current goal, then suggests explicit `change` syntax that 
uses the resulting unified term.

If `term` is not present, `change?` suggests the current goal itself. This is useful after tactics 
which transform the goal while maintaining definitional equality, such as `dsimp`; those preceding 
tactic calls can then be deleted.
```lean
example : (fun x : Nat => x) 0 = 1 := by
  change? 0 = _  -- `Try this: change 0 = 1`
```
-/
```

File: Mathlib/Tactic/Change.lean [hunk 5]
```diff
@@ -0,0 +1,39 @@
...
+
+import Mathlib.Tactic.Basic
+/-!
+
+# Tactic `change? _`
+
+This tactic is used to replace the goal with a definitionally equal one.
+The `_` is a general term and is intended to be used to guide which unfolding you want
+Lean to perform.
```
Comment (thorimur) [inline Mathlib/Tactic/Change.lean:14]:
```suggestion
# Tactic `change? term`

This tactic is used to suggest a replacement of the goal by a definitionally equal term.
`term` is intended to contain holes which get unified with the main goal and filled in explicitly 
in the suggestion.

`term` can also be omitted, in which case `change?` simply suggests `change` with the main goal. 
This is helpful after tactics like `dsimp`, which can then be deleted.
```

File: Mathlib/Tactic/Change.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Tactic/Change.lean:34]: This seems like a good idea to me, but then I'd move the error about non-defeq to this step, right?  (I'll do it myself, but I won't get around to it for today.)

File: Mathlib/Tactic/Change.lean [hunk 6]
```diff
@@ -0,0 +1,39 @@
...
+  let sop := stx[1].getOptional?
+  let expr := ← match sop with
+    | none => getMainTarget
+    | some ex => do
+      let ex := ← elabTerm ex none
+      let defeq? := ← isDefEq ex (← getMainTarget)
+      if ! defeq? then throwError "The given term is not DefEq to the goal"
+      instantiateMVars ex
+  let dstx := ← delabToRefinableSyntax expr
+  addSuggestion stx (← `(tactic| change $dstx))
```
Comment (thorimur) [inline Mathlib/Tactic/Change.lean:39]: For ease of maintenance by others, this should probably use `elab_rules` syntax instead of low-level syntax manipulation. Also, it seems to be standard to put the blue squiggle under the initial token instead of the whole thing; we pass `origSpan?` to tell `addSuggestion` to replace the whole thing upon clicking, though. :)
```suggestion
elab_rules : tactic
| `(tactic|change?%$tk $[$sop:term]?) => do
  let stx ← getRef
  let expr := ← match sop with
    | none => getMainTarget
    | some ex => do
      let ex := ← elabTerm ex (← inferType <|← getMainTarget)
      let defeq? := ← isDefEq ex (← getMainTarget)
      if ! defeq? then throwError "The given term is not DefEq to the goal"
      instantiateMVars ex
  let dstx := ← delabToRefinableSyntax expr
  addSuggestion tk (← `(tactic| change $dstx)) (origSpan? := stx)
```

File: Mathlib/Tactic/Change.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Tactic/Change.lean:34]: By the way, I wonder if this change would fix what I consider a bug: with the running `fun` example, using `change? _ = 1` seems to ignore the hint and returns `fun ...`.

File: Mathlib/Tactic/Change.lean (hunk 6 above)
Comment (adomani) [reply Mathlib/Tactic/Change.lean:39]: I didn't know about `getRef`, which is why I had used the weird definition.  It was my hacky way of getting my hands on the whole syntax.

File: Mathlib/Tactic/Change.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Tactic/Change.lean:38]: Is this just a stylistic change, or is there a difference to omitting the `:=`?

File: Mathlib/Tactic/Change.lean (hunk 3 above)
Comment (thorimur) [reply Mathlib/Tactic/Change.lean:34]: I think It might actually be more informative to let `elabTermEnsuringType` report its own error! Then the user knows that the problem is specifically a type mismatch, not a term-level defeq problem.

Comment (adomani) [reply Mathlib/Tactic/Change.lean:34]: Ok, in any case, the explicit defeq test and the error then should be removed entirely, right?

File: Mathlib/Tactic/Change.lean (hunk 2 above)
Comment (thorimur) [reply Mathlib/Tactic/Change.lean:38]: It's purely stylistic. :)

File: Mathlib/Tactic/Change.lean (hunk 6 above)
Comment (thorimur) [reply Mathlib/Tactic/Change.lean:39]: Ah, gotcha—I thought that might have been why. It took a second for me to locate it as well.

File: Mathlib/Tactic/Change.lean (hunk 3 above)
Comment (thorimur) [reply Mathlib/Tactic/Change.lean:34]: Hmm, I don't think so, if I understand correctly—we *do* still want to test that `ex` is defeq to the main target. `elabTermEnsuringType` just checks that these expressions have the same type.

Comment (thorimur) [reply Mathlib/Tactic/Change.lean:34]: Also, if you do opt to click commit suggestion on the larger `elab_rules` suggestion, I'll update my suggestion here, as we should use `withRef` to report the type error on the term: e.g. `withRef sop <| elabTermEnsuringType ...`. Or if you'd like to make changes manually from your local repo, I'd recommend including `withRef` as appropriate (whatever's more convenient). :)

Comment (adomani) [reply Mathlib/Tactic/Change.lean]: I committed your elab_rules suggestion.  I plan to commit all the remaining as well.  I got into the habit of doing it while I am in front of a computer, to catch errors right away, but I'm happy to make exceptions!

File: Mathlib/Tactic/Change.lean [hunk 7]
```diff
@@ -0,0 +1,40 @@
...
+
+open Lean Meta Elab.Tactic Std.Tactic.TryThis in
+elab_rules : tactic
+| `(tactic|change?%$tk $[$sop:term]?) => withMainContext do
+  let stx ← getRef
+  let expr ← match sop with
+    | none => getMainTarget
+    | some sop => do
+      let ex ← elabTerm sop none
+      let defeq? ← isDefEq ex (← getMainTarget)
```
Comment (thorimur) [inline Mathlib/Tactic/Change.lean:36]: (Since we'd be using `getMainTarget` twice if using `elabTermEnsuringType`, I factored it out.)
```suggestion
      let tgt ← getMainTarget
      let ex ← withRef sop <| elabTermEnsuringType sop (← inferType tgt)
      let defeq? ← isDefEq ex tgt
```

Comment (adomani) [reply Mathlib/Tactic/Change.lean:36]: Ah, I was confused before about the defeq test, since I was thinking "these are all Props", but of course the defeq test is on the term, while the elabTerm is using `inferType`!  I'm normally slow, even in front of a computer, but on mobile, I cannot even test things out!  🙃

File: test/Change.lean [hunk 8]
```diff
@@ -0,0 +1,20 @@
+import Mathlib.Tactic.Change
+import Std.Tactic.GuardMsgs
+
+set_option pp.unicode.fun true
+
```
Comment (thorimur) [inline test/Change.lean:5]:
```suggestion
```

Comment (adomani) [reply test/Change.lean:5]: I thought that this was useful since otherwise the `fun` arrow gives incompatible errors for `guard_msgs`.  Am I wrong?

I was in this situation, where either the error was on my local machine or on CI until Kyle mentioned this option.

Comment (thorimur) [reply test/Change.lean:5]: Oh, maybe CI works differently? I can confirm that locally the `fun` arrows print as `↦` for me (and `#guard_msgs` sees them that way too). I suppose it doesn't hurt to ensure it. :)

Comment (adomani) [reply test/Change.lean:5]: If you are curious, try looking at the tests for ExtractGoal: I had to use it there and there I tested it.  Here I just placed it based on memory.

Comment (adomani) [reply test/Change.lean:5]: https://github.com/leanprover-community/mathlib4/pull/4595#issuecomment-1662171855
and below.

File: Mathlib/Tactic/Change.lean [hunk 9]
```diff
@@ -0,0 +1,46 @@
...
+elab_rules : tactic
+| `(tactic|change?%$tk $[$sop:term]?) => withMainContext do
+  let stx ← getRef
+  let expr ← match sop with
+    | none => getMainTarget
+    | some sop => do
+      let tgt ← getMainTarget
+      let ex ← withRef sop <| elabTermEnsuringType sop (← inferType tgt)
+      let defeq? ← isDefEq ex tgt
+      if ! defeq? then throwErrorAt sop "The given term is not DefEq to the goal"
```
Comment (thorimur) [inline Mathlib/Tactic/Change.lean:43]: Last thing I can think of, then this LGTM: this error message should probably be more informative:
```suggestion
      if ! defeq? then throwErrorAt sop "The term{indentD ex}\nis not defeq to the goal:{
        indentD tgt}"
```
By using `ex` instead of `sop`, we can give the user a clue as to what went wrong.

The next two comments adjust the tests appropriately.

File: test/Change.lean [hunk 10]
```diff
@@ -0,0 +1,20 @@
...
+info: Try this: change (fun x ↦ x) 0 = 1
+---
+error: The given term is not DefEq to the goal
+-/
+#guard_msgs in
+example : (fun x : Nat => x) 0 = 1 := by
+  change? 0 = _  -- change 0 = 1
+  change?        -- change (fun x ↦ x) 0 = 1
+  change? _      -- change (fun x ↦ x) 0 = 1
+  change? 1 = _  -- The given term is not DefEq to the goal
```
Comment (thorimur) [inline test/Change.lean:20]: Note: we don't use `_` because it becomes `?m.96`, and that's quite fragile to put in a `#guard_msgs`
```suggestion
error: The term
  1 = 0
is not defeq to the goal:
  (fun x ↦ x) 0 = 1
-/
#guard_msgs in
example : (fun x : Nat => x) 0 = 1 := by
  change? 0 = _  -- change 0 = 1
  change?        -- change (fun x ↦ x) 0 = 1
  change? _      -- change (fun x ↦ x) 0 = 1
  change? 1 = 0
    -- The term
    --   1 = 0
    -- is not defeq to the goal:
    --   (fun x ↦ x) 0 = 1
```

File: test/Change.lean (hunk 8 above)
Comment (thorimur) [reply test/Change.lean:5]: Ah, I see! Thanks for the reference!

**Comment by adomani** [comment]
@thorimur thank you very much for your suggestions: the new code looks so much better!

**Comment by thorimur** [comment]
LGTM! :) Thanks for being so responsive! At some point we will also want to add `at` syntax as well, but this is a nice PR as-is. Thanks for writing it! :)

**Comment by adomani** [comment]
Yes, `at`-syntax is next!  It would be nice if there were a tactic for converting a tactic to `at`-syntax... 🙃

File: Mathlib/Tactic/Change.lean [hunk 11]
```diff
@@ -0,0 +1,47 @@
...
+| `(tactic|change?%$tk $[$sop:term]?) => withMainContext do
+  let stx ← getRef
+  let expr ← match sop with
+    | none => getMainTarget
+    | some sop => do
+      let tgt ← getMainTarget
+      let ex ← withRef sop <| elabTermEnsuringType sop (← inferType tgt)
+      let defeq? ← isDefEq ex tgt
+      if ! defeq? then throwErrorAt sop "The term{indentD ex}\nis not defeq to the goal:{
+        indentD tgt}"
```
Comment (semorrison) [inline Mathlib/Tactic/Change.lean:44]:
```suggestion
      let !(← isDefEq ex tgt) then throwErrorAt sop "The term{indentD ex}∋ not defeq to the goal:{
        indentD tgt}"
```

**Comment by semorrison** [comment]
bors d+

**Comment by bustercopley** [comment]
@adomani, the repo now contains files "test/Change.lean" and "test/change.lean". One overwrites the other when the repo is checked out on a case-insensitive filesystem.
